Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: NEUROSURGERY
 
Allergies: 
Patient recorded as having No Known Allergies to Drugs
 
Attending: ___.
 
Chief Complaint:
Brain Tumor
 
Major Surgical or Invasive Procedure:
___ - suboccipital decompression and ___ ventricle mass 
resection

 
History of Present Illness:
The patient is a ___ young male who
recently presented to my office after a tumor was found on
imaging workup for vertigo. The patient presents with an
approximately 1 x 2 cm lesion of the fourth ventricle
occluding the obex. The patient is in need of a
histopathological diagnosis, as well as a tumor debulking to
obtain a histopathological diagnosis for further treatment
options. The patient was extensively counseled. The patient
was consented. The patient is taken electively to the OR.

 
Past Medical History:
HTN
 
Social History:
___
Family History:
No h/o brain tumors
 
Physical Exam:
On admission: 
AVSS
Alert and oriented
RRR no murmurs
Lungs clear
No neurologic deficits

On discharge: 
AVSS
Alert and oriented
PERRLA
R side facial droop otherwise cranial nerves are intact - Is 
able to sufficiently close his R eye and shows motor strength in 
cranial nerve VII distribution but it is weakened.
Residual B UE dysmetria with finger to nose that has improved 
during his hospitalization.  Walking without problem.
Otherwise has no other deficiencies.
Has C collar inplace.  
Wound is without erythema, exudate, or fluctuance.  Staples are 
in good position.
 
Pertinent Results:
___ MRI 
Status post resection of posterior fossa fourth ventricular mass 
with expected post-operative changes and pneumocephalus. No 
residual enhancing mass is identified. 
___ CT scan
1. Status post resection of an intraventricular lesion just 
inferior to the fourth ventricle. Small amount of residual 
high-density could represent a focal hemorrhage at the operative 
site.

2. Expected postoperative pneumocephalus and intraventricular 
air.

___ 05:30AM BLOOD WBC-12.9* RBC-4.06* Hgb-12.4* Hct-36.4* 
MCV-90 MCH-30.5 MCHC-34.1 RDW-13.6 Plt ___
___ 05:30AM BLOOD ___ PTT-23.9 ___
___ 05:30AM BLOOD Glucose-134* UreaN-12 Creat-0.8 Na-141 
K-3.9 Cl-102 HCO3-29 AnGap-14
___ 05:30AM BLOOD Calcium-9.2 Phos-3.6 Mg-2.0
 
Brief Hospital Course:
Patient was taken to the operating room and tolerated the 
procedure well.  Post operatively he was extubated and 
transferred to the ICU.  His pain was controlled and was given 
steroids for swelling.  He had nausea that was controlled with 
IV meds and eventually resolved.  Additionally he had B UE 
dysmetria on finger to nose.  On POD3 it was noticed that he had 
a right facial droop.  He was changed to a soft collar for 
concern that his hard collar may be impinging his R facial nerve 
at the level of the parotid.  He was able to close his eyes and 
control his mouth.  Patient was otherwise walking, eating, and 
urinating without problem at discharge.  He had adequate pain 
control on oral pain meds.
 
Medications on Admission:
Atenolol 50'
Nifedipine 30'
 
Discharge Medications:
1. Bisacodyl 5 mg Tablet, Delayed Release (E.C.) Sig: Two (2) 
Tablet, Delayed Release (E.C.) PO DAILY (Daily) as needed.
Disp:*30 Tablet, Delayed Release (E.C.)(s)* Refills:*0*
2. Senna 8.6 mg Tablet Sig: ___ Tablets PO BID (2 times a day) 
as needed for constipation.
Disp:*60 Tablet(s)* Refills:*0*
3. Docusate Sodium 100 mg Tablet Sig: One (1) Tablet PO twice a 
day: Take while using pain medications.
Disp:*60 Tablet(s)* Refills:*2*
4. Nifedipine 30 mg Tablet Sustained Release Sig: One (1) Tablet 
Sustained Release PO QHS (once a day (at bedtime)).  
5. Sodium Chloride 0.65 % Aerosol, Spray Sig: ___ Sprays Nasal 
QID (4 times a day) as needed.  
6. Oxycodone-Acetaminophen ___ mg Tablet Sig: ___ Tablets PO 
Q4-6H () as needed.
Disp:*60 Tablet(s)* Refills:*0*
7. Camphor-Menthol 0.5-0.5 % Lotion Sig: One (1) Appl Topical 
TID (3 times a day) as needed.  
8. Saline Sensitive Eyes     Drops Sig: ___  Miscellaneous five 
times a day.  
9. Atenolol 50 mg Tablet Sig: One (1) Tablet PO at bedtime.  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
___ ventricle mass

 
Discharge Condition:
Stable

 
Discharge Instructions:
Keep incision clean and dry.  Okay to shower one week after 
surgery.  Do not immerse the wound for at least 4 weeks.  Wear 
cervical collar at all times except when bathing.  

Call or come back in if you have fevers, chills, increasing 
pain, drainage from wound, redness around wound or any other 
concerns.  If weakness of R side of face is worsening then call 
or come back in.

Use eye drops as needed for dry right eye.

You need to have your staples out in 14 days from surgery.  You 
can have your PCP remove them or come into Dr. ___ 
so a nurse can remove them.

 
Followup Instructions:
___